US07557103B2
8-(1-Ethyl-propyl)-2,6-dimethyl-3-(3-trifluoromethyl-thieno[3,2-b]pyridin-2-yl)-imidazo[1,2-b]pyridazine
90 mg of 3-(3-Bromo-thieno[3,2-b]pyridin-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.21 mmol), 57 mg of CF3CO2Na (0.42 mmol) and 80 mg of CuI (0.42 mmol) are placed into microwave vessel with 3 ml of DMF/toluene=2/1. The vial is capped and heated at 210° C. for 60 min in microwave. The reaction mixture is applied onto silica-gel column (Hexane:AcOEt=8:1) directly to produce the tile compound. 27 mg (31%) mass spectrum (m/e): 419 (M+1); 1H-NMR (CDCl3): 8.88 (dd, 1H, J=4.9 Hz, 1.4 Hz), 8.22 (dd, 1H, J=7.8 Hz, 1.4 Hz), 7.4 (dd, 1H, J=7.8 Hz, 4.9 Hz), 6.74 (s, 1H), 3.31 (m, 1H), 2.53 (s, 3H), 2.79 (s, 3H), 1.85 (m, 4H), 0.88 (t, 6H, J=7.4 Hz).

reactant | 3-(3-Bromo-thieno[3,2-b]pyridin-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.21 mmol, 90 mg | BrC1=C(SC=2C1=NC=CC2)C2=C(N=C1N2N=C(C=C1C(CC)CC)C)C | C20H21BrN4S
reactant | CF3CO2Na | 0.42 mmol, 57 mg | C(F)(F)(F)C(=O)O[Na]
reactant | DMF toluene | 3 ml | CN(C)C=O.C1(=CC=CC=C1)C
reactant | Hexane | CCCCCC | C6H14
catalyst | CuI | 0.42 mmol, 80 mg | [Cu]I
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(3-trifluoromethyl-thieno[3,2-b]pyridin-2-yl)-imidazo[1,2-b]pyridazine | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C1=NC=CC=C1S2)C(F)(F)F | C21H21F3N4S
